US09371320B2
B) 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid
To a mixture of methyl 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate (1.88 g) in a mixed solvent of methanol (30 mL)/THF (30 mL)/water (25 mL) was added 1N aqueous sodium hydroxide solution (5.44 mL) at room temperature, and the mixture was stirred overnight at room temperature. To the reaction mixture was added 1N hydrochloric acid, and the mixture was concentrated under reduced pressure. The residue was washed with water, and dried in vacuum to give the title compound (1.50 g).

reactant | methyl 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylate | 1.88 g | C(C)(C)(C)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)OC | C17H19N3O3S
reactant | methanol | 30 mL | CO | CH4O
reactant | sodium hydroxide | 1N, 5.44 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(1-tert-butyl-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)thiophene-2-carboxylic acid | 1.50 g | C(C)(C)(C)N1N=C(C=2C(=NC=CC21)OC)C=2C=C(SC2)C(=O)O | C16H17N3O3S
